US04421757
4-(4-Chloro-3-dimethylsulfamoylphenyl)-2-(4-hydroxyphenylimino)-3-methyl-thiazolidin-4-ol hydrobromide
6.8 g (0.02 mole) of 2-bromo-4'-chloro-3'-dimethylsulfamoylacetophenone are dissolved in 60 ml of acetone or 150 ml of ethanol or 50 ml of ethyl acetate and, after addition of a solution of 3.7 g (0.022 mole) of 1-(4-hydroxyphenyl)-3-methyl-thiourea in 60 ml of acetone or 50 ml of ethanol or 100 ml of ethyl acetate, the solution is stirred at room temperature for 1 to 4 hours, the crystals are filtered off and, after washing with a little acetone and ether, dried in a cool stream of air or in vacuo over paraffin shavings. Colorless crystals, m.p. 255°-264° C. with decomposition, by slow heating; m.p. 178°-180° C., by rapid heating.

reactant | 2-bromo-4'-chloro-3'-dimethylsulfamoylacetophenone | 0.02 mole, 6.8 g | BrCC(=O)C1=CC(=C(C=C1)Cl)S(N(C)C)(=O)=O | C10H11BrClNO3S
reactant | 1-(4-hydroxyphenyl)-3-methyl-thiourea | 0.022 mole, 3.7 g | OC1=CC=C(C=C1)NC(=S)NC | C8H10N2OS
solvent | acetone | 60 ml | CC(=O)C | C3H6O
solvent | acetone | 60 ml | CC(=O)C | C3H6O
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 4-(4-Chloro-3-dimethylsulfamoylphenyl)-2-(4-hydroxyphenylimino)-3-methyl-thiazolidin-4-ol hydrobromide | Br.ClC1=C(C=C(C=C1)C1(N(C(SC1)=NC1=CC=C(C=C1)O)C)O)S(N(C)C)(=O)=O | InChI=1S/C18H20ClN3O4S2.BrH/c1-21(2)28(25,26)16-10-12(4-9-15(16)19)18(24)11-27-17(22(18)3)20-13-5-7-14(23)8-6-13;/h4-10,23-24H,11H2,1-3H3;1H
